US07576115B2
Synthesis of 4-{[(2-{1-[5-(4-t-butylphenyl)-4-hydroxy-3-thienyl]ethylidene}hydrazino)carbonothioyl]amino}-2-nitrobenzoic acid
Methyl 4-{[(2-{1-[5-(4-t-butylphenyl)-4-hydroxy-3-thienyl]ethylidene}hydrazino)carbonothioyl]amino}-2-nitrobenzoate (95 mg, 0.18 mmol) synthesized in Synthetic Example 92 was dissolved in isopropyl alcohol (1.8 mL), and 0.2 M sodium hydroxide aqueous solution (2.0 mL, 0.40 mmol) was added thereto, followed by stirring overnight at room temperature. After completion of the stirring, 1 M hydrochloric acid (0.40 mL, 0.40 mmol) and water were added thereto, and the precipitated solid was filtered to obtain 57 mg of the desired product as a pale yellow solid (yield 61%).

reactant | Methyl 4-{[(2-{1-[5-(4-t-butylphenyl)-4-hydroxy-3-thienyl]ethylidene}hydrazino)carbonothioyl]amino}-2-nitrobenzoate | 0.18 mmol, 95 mg | C(C)(C)(C)C1=CC=C(C=C1)C1=C(C(=CS1)C(C)=NNC(=S)NC1=CC(=C(C(=O)OC)C=C1)[N+](=O)[O-])O | C25H26N4O5S2
reactant | sodium hydroxide | 0.40 mmol, 0.2 M, 2.0 mL | [OH-].[Na+]
reactant | hydrochloric acid | 0.40 mmol, 1 M, 0.40 mL | Cl | ClH
reactant | water | O | H2O
solvent | isopropyl alcohol | 1.8 mL | C(C)(C)O | C3H8O
product | 4-{[(2-{1-[5-(4-t-butylphenyl)-4-hydroxy-3-thienyl]ethylidene}hydrazino)carbonothioyl]amino}-2-nitrobenzoic acid | 57 mg, yield 61% | C(C)(C)(C)C1=CC=C(C=C1)C1=C(C(=CS1)C(C)=NNC(=S)NC1=CC(=C(C(=O)O)C=C1)[N+](=O)[O-])O | C24H24N4O5S2
